US07405215B2
b.) [3-(2-Isopropyl-1,1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2,3]thiadiazin-4-yl)-5-fluoro-2-methyl-indol-1-yl]-acetic acid
[3-(2-Isopropyl-1,1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2,3]thiadiazin-4-yl)-5-fluoro-2-methyl-indol-1-yl]-acetic acid tert-butyl ester (61 μmol) was treated with TFA (2 mL) for 2 hours, concentrated, and purified by preparative LCMS to give the title compound. 1H NMR (d6-DMSO) δ 8.08 (d, 1H), 7.90 (t, 1H), 7.83 (t, 1H), 7.47 (m, 2H), 6.97 (m, 2H), 4.71 (m, 1H), 4.53 (s, 2H), 2.23 (s, 3H), 1.47 (m, 6H) ppm. MS calculated for C21H20FN3O4S—H: 428, observed: 428.

reactant | [3-(2-Isopropyl-1,1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2,3]thiadiazin-4-yl)-5-fluoro-2-methyl-indol-1-yl]-acetic acid tert-butyl ester | 61 μmol | C(C)(C)(C)OC(CN1C(=C(C2=CC(=CC=C12)F)C1=NN(S(C2=C1C=CC=C2)(=O)=O)C(C)C)C)=O | C25H28FN3O4S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | [3-(2-Isopropyl-1,1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2,3]thiadiazin-4-yl)-5-fluoro-2-methyl-indol-1-yl]-acetic acid | C(C)(C)N1S(C2=C(C(=N1)C1=C(N(C3=CC=C(C=C13)F)CC(=O)O)C)C=CC=C2)(=O)=O | C21H20FN3O4S
